US09029370B2
To a stirred suspension of (+)-(R)-2-(4-amino-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (40 mg) in THF (6 ml) and DMF (2 ml) were added sequentially N-methylmorpholine (0.12 ml), TBTU (128 mg) and 6-fluoro-1H-indazole-3-carboxylic acid (47 mg, CAS 129295-30-3) and the mixture was heated at 50° C. for 24 h and then at 60° C. for 18 h. The mixture was then concentrated in vacuo and the residue was purified by column chromatography (SiO2; gradient: heptane/EtOAc) to give (R)-2-{3-fluoro-4-[(6-fluoro-1H-indazole-3-carbonyl)-amino]-phenyl}-morpholine-4-carboxylic acid tert-butyl ester (15 mg, 24%) as a white solid. MS (ISP): 476.1 ([M+NH4]+), 459.1 ([M+H]+), 403.1 ([M+H—C4H8]+).

reactant | (+)-(R)-2-(4-amino-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 40 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C1=CC(=C(C=C1)N)F | C15H21FN2O3
reactant | N-methylmorpholine | 0.12 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 128 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 6-fluoro-1H-indazole-3-carboxylic acid | 47 mg | FC1=CC=C2C(=NNC2=C1)C(=O)O | C8H5FN2O2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (R)-2-{3-fluoro-4-[(6-fluoro-1H-indazole-3-carbonyl)-amino]-phenyl}-morpholine-4-carboxylic acid tert-butyl ester | 15 mg, 24% | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C1=CC(=C(C=C1)NC(=O)C1=NNC2=CC(=CC=C12)F)F | C23H24F2N4O4
